US07696231B2
b) Preparation of methyl 4-[(4-{[2-(5-iodo-2-oxo-1,2-dihydro-3H-indol-3-ylidene)hydrazino]carbonyl}phenyl)amino]-4-oxobutanoate (Scheme 1)
Following the general method as outlined in Example 1, into a suspension of 5-iodo-1H-indole-2,3-dione in acetic acid in the presence of 5% TFA was added tert-butyl 2-{4-[(4-methoxy-4-oxobutanoyl)amino]benzoyl}hydrazinecarboxylate. After stirring at 100° C., the reaction mixture was cooled to rt and an orange solid precipitated out. Filtration on a fritté, washing with AcOH, water and drying under vacuo at 60° C. for 60 min gave 89 mg of the title compound (92%) as an orange solid in 98.8% purity by HPLC (MaxPlot detection between 230 and 400 nm).

reactant | 5-iodo-1H-indole-2,3-dione | IC=1C=C2C(C(NC2=CC1)=O)=O | C8H4INO2
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | tert-butyl 2-{4-[(4-methoxy-4-oxobutanoyl)amino]benzoyl}hydrazinecarboxylate | COC(CCC(=O)NC1=CC=C(C(=O)NNC(=O)OC(C)(C)C)C=C1)=O | C17H23N3O6
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | methyl 4-[(4-{[2-(5-iodo-2-oxo-1,2-dihydro-3H-indol-3-ylidene)hydrazino]carbonyl}phenyl)amino]-4-oxobutanoate | 89 mg, 92% | IC=1C=C2C(C(NC2=CC1)=O)=NNC(=O)C1=CC=C(C=C1)NC(CCC(=O)OC)=O | C20H17IN4O5
